US07319099B2
Preparation of 4-Chloro-6-trifluoromethyl-pyrimidine
6-Trifluoromethyl-pyrimidin-4-ol ([1546-78-7], 5 g) was refluxed in phosphorus oxychloride (17 mL) for 2 hours. The reaction mixture was carefully concentrated in vacuo and the residue was distilled (Kugelrohr) under reduced pressure (bp=30-55° C. @ 10 mbar) to yield the title compound ([37552-81-1], 1.4 g). MS (EI): 182.0 (M).

reactant | 6-Trifluoromethyl-pyrimidin-4-ol | 5 g | FC(C1=CC(=NC=N1)O)(F)F | C5H3F3N2O
reactant | phosphorus oxychloride | 17 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-Chloro-6-trifluoromethyl-pyrimidine | 1.4 g | ClC1=NC=NC(=C1)C(F)(F)F | C5H2ClF3N2
